US04863949
2-(3-Hydroxybutanoylamino)-ethylamine
192 ml. 1,2-diaminoethane are mixed with 60 ml. water and, with stirring and gentle cooling at 20°-30° C., 74 ml. β-butyrolactone are added dropwise thereto. After 4 days, the reaction mixture is distilled off in a vacuum and the crystal slurry obtained is dried over sulphuric acid in a desiccator. There are obtained 122.4 g. (93% of theory) of the desired base; m.p. 71°-73° C.

reactant | 1,2-diaminoethane | NCCN | C2H8N2
reactant | β-butyrolactone | C1(CC(C)O1)=O | C4H6O2
solvent | water | O | H2O
product | 2-(3-Hydroxybutanoylamino)-ethylamine | OC(CC(=O)NCCN)C | C6H14N2O2
